US07790727B2
2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic Acid [4-methoxy-3-(4-methyl-piperazin-1-yl)-phenyl]-amide
285 mg of the product were obtained by reaction of 2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic acid (4-methoxy-3-piperazin-1-yl-phenyl)-amide hydrochloride with formaldehyde, sodium triacetoxyborohydride and sodium sulphate in dichloromethane.

reactant | 2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic acid (4-methoxy-3-piperazin-1-yl-phenyl)-amide hydrochloride | Cl.COC1=C(C=C(C=C1)NS(=O)(=O)C1=CC=CC=2OC(OC21)(F)F)N2CCNCC2
reactant | formaldehyde | C=O | CH2O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic Acid [4-methoxy-3-(4-methyl-piperazin-1-yl)-phenyl]-amide | 285 mg | COC1=C(C=C(C=C1)NS(=O)(=O)C1=CC=CC=2OC(OC21)(F)F)N2CCN(CC2)C | C19H21F2N3O5S
